US08497368B2
1-Quinolin-6-yl-cyclopropanecarboxylic acid methyl ester (50.1)
A solution of LDA (1.8 M solution in toluene, 14.8 ml, 26.6 mmol) was added dropwise to a solution of quinolin-6-yl-acetic acid methyl ester (2.14 g, 10.64 mmol) in dry THF (40 mL) under a nitrogen atmosphere at −78° C. After 30 min, 1,2-dibromoethane (2.40 g, 12.76 mmol) was added dropwise over 3 min. The resulting mixture was stirred for 1 h at room temperature, then quenched with satd aq. NH4Cl. The mixture was extracted with DCM, washed with brine, dried over Na2SO4, and stripped of solvent. The residue was purified by flash chromatography in silica gel eluting with a EtOAC/hexane gradient to afford 463 mg (20%) of the title compound as yellow solid. 1H-NMR (400 MHz, CDCl3) δ ppm 8.91 (dd, 1H), 8.12 (d, 1H), 8.07 (d, 1H), 7.77-7.74 (m, 2H), 7.40 (dd, 1H), 3.65 (s, 3H), 1.73-1.71 (m, 2H), 1.33-1.30 (m, 2H). LCMS (method A): [MH]+=228, tR=4.37 min.

reactant | LDA | 26.6 mmol, 1.8 M, 14.8 ml | [Li+].CC(C)[N-]C(C)C
reactant | quinolin-6-yl-acetic acid methyl ester | 10.64 mmol, 2.14 g | COC(CC=1C=C2C=CC=NC2=CC1)=O | C12H11NO2
reactant | 1,2-dibromoethane | 12.76 mmol, 2.40 g | BrCCBr | C2H4Br2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Quinolin-6-yl-cyclopropanecarboxylic acid methyl ester | 463 mg, 20% | COC(=O)C1(CC1)C=1C=C2C=CC=NC2=CC1 | C14H13NO2
